* source 3WEEK
R_R1         0 N00106  10k TC=0,0 
R_R2         N00106 N00110  20k TC=0,0 
R_R3         N00110 N00114  4.7k TC=0,0 
V_V1         0 N00114 5Vdc
