* source MIDTEST
V_V1         N00121 0 0Vdc
R_R1         N00121 N00144  10k TC=0,0 
Q_Q1         N00148 N00144 0 Q2N3904
R_R2         N00148 VCC  470 TC=0,0 
V_V2         VCC 0 12Vdc
